US07718693B2
{[2-Fluoro-3-(trifluoromethyl)phenyl]methyl}amine (1.93 g, 10 mmol) was dissolved in dichloromethane (40 ml) and treated with a solution of bis(1,1-dimethylethyl)dicarbonate (2.18 g, 10 mmol) in dichloromethane (10 ml). After stirring at room temperature for 2 hrs the solvent was evaporated to give a pale yellow solid which was purified by silica-gel column chromatography, eluting with a 1:10-1:5 gradient of ethyl acetate in hexanes, to give pure 1,1-dimethylethyl {[2-fluoro-3-(trifluoromethyl)phenyl]methyl}carbamate (2 g).

reactant | {[2-Fluoro-3-(trifluoromethyl)phenyl]methyl}amine | 10 mmol, 1.93 g | FC1=C(C=CC=C1C(F)(F)F)CN | C8H7F4N
reactant | bis(1,1-dimethylethyl)dicarbonate | 10 mmol, 2.18 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1,1-dimethylethyl {[2-fluoro-3-(trifluoromethyl)phenyl]methyl}carbamate | 2 g | FC1=C(C=CC=C1C(F)(F)F)CNC(OC(C)(C)C)=O | C13H15F4NO2
